US07166598B2
To a solution of (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-(3-amino-4-methylbenzyl)-4-[2-[(2S)-2-(methoxymethyl)morpholino]ethyl]piperazine (132 mg) in methylene chloride was added 4-(dimethylamino)pyridine (2 mg) and trifluoroacetic anhydride (0.05 ml) successively and the mixture was stirred at room temperature overnight. The mixture was evaporated in vacuo and to the residue was added ethyl acetate and water. The organic layer was separated, washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel with a mixture of methylene chloride and methanol (25:1) as eluent to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[4-methyl-3-(trifluoroacetylamino)benzyl]-4-[2-[(2S)-2-(methoxymethyl)-morpholino]ethyl]piperazine (134 mg).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-(3-amino-4-methylbenzyl)-4-[2-[(2S)-2-(methoxymethyl)morpholino]ethyl]piperazine | 132 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCN2C[C@H](OCC2)COC)CC2=CC(=C(C=C2)C)N)C=C(C1)C(F)(F)F)(F)F | C29H36F6N4O3
reactant | trifluoroacetic anhydride | 0.05 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 2 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[4-methyl-3-(trifluoroacetylamino)benzyl]-4-[2-[(2S)-2-(methoxymethyl)-morpholino]ethyl]piperazine | 134 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCN2C[C@H](OCC2)COC)CC2=CC(=C(C=C2)C)NC(C(F)(F)F)=O)C=C(C1)C(F)(F)F)(F)F | C31H35F9N4O4
